US03940419
Preparation of 1-(3-Chlorophthalimido)cyclohexanecarbonyl Chloride ##SPC23##
In a 12 liter flask is placed 1.5 kg. of the 1-(3-chlorophthalimido)cyclohexanecarboxylic acid and 7500 ml. benzene. The mixture is stirred and heated to boiling, and then 696 grams thionyl chloride added dropwise. After the addition, heating is continued for 2 hours. The volume of the solution is reduced by one-half, the solution filtered, and the remaining solvent removed under reduced pressure. The acid chloride is used for the preparation of the carboxamides without further purification.

reactant | 1-(3-chlorophthalimido)cyclohexanecarboxylic acid | ClC1=C2C(C(=O)N(C2=O)C2(CCCCC2)C(=O)O)=CC=C1 | C15H14ClNO4
reactant | thionyl chloride | 696 grams | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(3-Chlorophthalimido)cyclohexanecarbonyl Chloride | ClC1=C2C(C(=O)N(C2=O)C2(CCCCC2)C(=O)Cl)=CC=C1 | C15H13Cl2NO3
